US06762205B1
A mixture composed of 80 mg of 4-[N-(4-hydroxybenzyl)-N-methylsulfonylamino]phenyl methanesulfonate and 0.5 ml of a 28% methanolic solution of sodium methoxide was stirred in 2 ml of methanol and 1 ml of tetrahydrofuran at 50° C. for 1hour. After hydrochloric acid was added to the reaction mixture, the product was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. After the solvent was distilled off the resulting crude product was purified by TLC (using a 19:1 mixture of chloroform and methanol as the developing solvent) to obtain 38 mg of N-(4-hydroxybenzyl)-N-(4-hydroxyphenyl)methanesulfonamide.

reactant | 4-[N-(4-hydroxybenzyl)-N-methylsulfonylamino]phenyl methanesulfonate | 80 mg | CS(=O)(=O)OC1=CC=C(C=C1)N(S(=O)(=O)C)CC1=CC=C(C=C1)O | C15H17NO6S2
reactant | sodium methoxide | C[O-].[Na+]
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N-(4-hydroxybenzyl)-N-(4-hydroxyphenyl)methanesulfonamide | 38 mg | OC1=CC=C(CN(S(=O)(=O)C)C2=CC=C(C=C2)O)C=C1 | C14H15NO4S
